US04978665
2-ethyl-4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone (Compound No. 32)
A mixture comprising 280 mg of 4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone (Compound No. 30) prepared according to the process of Example 3 from 4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 29) as the starting material, 0.29 ml of ethyl iodide, 487 mg of anhydrous potassium carbonate and 15 ml of methyl ethyl ketone, was refluxed under stirring for 2 hours. The solvent was distilled off under reduced pressure, and water was added to the residue thereby obtained. The mixture was extracted with chloroform. The extract was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. Then, the solvent was distilled off, the residue thereby obtained was subjected to silica gel thin layer chromatography by using a solvent mixture of chloroform:methanol (9:1 v/v) as the developer, the oily substance thereby obtained was crystallized from a solvent mixture of diethyl ether-n-hexane, to obtain 180 mg of the above identified compound having a melting point of from 108° to 110.5° C. as light yellow crystals.

reactant | 4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone | 280 mg | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCCC)N)=O | C16H21BrN4O3
reactant | 4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | BrC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCCC)[N+](=O)[O-])=O | C16H19BrN4O5
reactant | ethyl iodide | 0.29 ml | C(C)I | C2H5I
reactant | potassium carbonate | 487 mg | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | 2-ethyl-4-bromo-5-(3-n-butoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Br)NCC1=CC(=C(C=C1)OC)OCCCC)N | C18H25BrN4O3
